US06969710B2
N-[2-({[(E)-2-Phenylethenyl]sulfonyl}amino)-5-(1-piperazinyl)phenyl]benzenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and β-styrenesulfonylchloride (48 mg, 0.239 mmol according to general method 3 to give before Boc-deprotection 160 mg of a purple solid. MS (posES-FIA) m/z=Found: 499.2. Calcd 499.14. 1H-NMR δ 8.26 (d, 1H), 8.04 (d, 1H), 7.75-7.38 (m, 8H), 7.22 (d, 1H, J=15.4 Hz), 7.16 (d, 1H), 6.97 (d, 1H), J=15.4 Hz), 6.78 (dd, 1H), 6.68 (d, 1H), 3.68 (app t, 2H), 3.39 (app t, 2H), 3.28-3.21 (m, 4H),

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | β-styrenesulfonylchloride | C(=CC1=CC=CC=C1)S(=O)(=O)Cl | C8H7ClO2S
product | N-[2-({[(E)-2-Phenylethenyl]sulfonyl}amino)-5-(1-piperazinyl)phenyl]benzenesulfonamide | C1(=CC=CC=C1)/C=C/S(=O)(=O)NC1=C(C=C(C=C1)N1CCNCC1)NS(=O)(=O)C1=CC=CC=C1 | C24H26N4O4S2
